US07795267B2
N-[2-(3,6-Dihydropyridin-1(2H)-yl)ethyl]-N-methylamine
80% Aluminum lithium hydride (0.36 g, 7.5 mmol) was suspended in tetrahydrofuran (10 mL). A solution of 1,1-dimethylethyl N-[2-(3,6-dihydropyridin-1(2H)-yl)ethyl]carbamate (0.68 g, 3.0 mmol) in tetrahydrofuran (10 mL) was added dropwise thereto at room temperature over 10 minutes, and the mixture was refluxed for 3 hours. The reaction solution was cooled to room temperature, and then a 1 N aqueous sodium hydroxide solution (20 mL) was added portionwise thereto. Insolubles were filtered off through a Celite, and the Celite was washed with tetrahydrofuran. The filtrate was concentrated under reduced pressure, and the residue was purified with amino silica gel column chromatography (hexane:ethyl acetate=19:1 to ethyl acetate) to obtain the title compound (0.18 g, yield 42%).

reactant | Aluminum lithium hydride | 7.5 mmol, 0.36 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | 1,1-dimethylethyl N-[2-(3,6-dihydropyridin-1(2H)-yl)ethyl]carbamate | 3.0 mmol, 0.68 g | N1(CCC=CC1)CCNC(OC(C)(C)C)=O | C12H22N2O2
reactant | sodium hydroxide | 1 N, 20 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[2-(3,6-Dihydropyridin-1(2H)-yl)ethyl]-N-methylamine | 0.18 g, yield 42% | N1(CCC=CC1)CCNC | C8H16N2
